.SUBCKT 4input0x00A8_X2 A B C D VDD VSS Y
* Canonical: 0b0000000010101000
* Function: Y = binate [small-gate search, 12 TR]
* Transistors: 12
MP0 sg4 D VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP2 sg6 A VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP3 sg6 sg4 VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP9 sg8_pmid sg6 VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP10 Y B sg8_pmid VDD pmos_rvt W=92.0n L=16n nfin=4
MP11 Y C sg8_pmid VDD pmos_rvt W=92.0n L=16n nfin=4
MN1 sg4 D VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN4 sg6 A sg6_ns0 VSS nmos_rvt W=92.0n L=16n nfin=4
MN5 sg6_ns0 sg4 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN6 Y sg6 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN7 Y B sg8_nmid VSS nmos_rvt W=92.0n L=16n nfin=4
MN8 sg8_nmid C VSS VSS nmos_rvt W=92.0n L=16n nfin=4
.ENDS
